US04332820
In a 250 ml single-neck flask equipped with a magnetic stirrer and a reflux condenser fitted with a nitrogen bubbler were placed 9.59 g (0.0525 moles) of 2-chloro-5-nitrobenzonitrile, 9.96 g (0.0541 moles) of 2,3,4,5,6-pentafluorophenol, 7.56 g (0.0541 moles) of anhydrous K2CO3, and 75 ml of acetonitrile. The mixture was heated to reflux and held there for 3 hrs. The reaction mixture was then cooled to room temperature and diluted with 150 ml of deionized water. The product separated as a crystalline solid. The solid was filtered off, washed thoroughly with water, and air-dried. The air-dried solid was recrystallized from 200 ml of absolute ethanol to give 9.91 g (57% yield) of purified 2-(2,3,4,5,6-pentafluorophenoxy)-5-nitrobenzonitrile, mp 127.5°-129° C.

reactant | 2-chloro-5-nitrobenzonitrile | 0.0525 moles, 9.59 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | 2,3,4,5,6-pentafluorophenol | 0.0541 moles, 9.96 g | FC1=C(C(=C(C(=C1F)F)F)F)O | C6HF5O
reactant | K2CO3 | 0.0541 moles, 7.56 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | water | 150 ml | O | H2O
product | 2-(2,3,4,5,6-pentafluorophenoxy)-5-nitrobenzonitrile | 9.91 g, 57% yield | FC1=C(OC2=C(C#N)C=C(C=C2)[N+](=O)[O-])C(=C(C(=C1F)F)F)F | C13H3F5N2O3
